US05159111
In a distillation equipment, a mixture of 51 g (0.33 mol) of 2-fluoro-2-chloro-1-methylcyclopropanecarboxylic acid and 60 g (0.5 mol) of thionyl chloride is heated slowly with stirring, during which process excess thionyl chloride distils over first and the desired product later. In this manner, 54 g (97% of theory) of 2-fluoro-2-chloro-1-methylcyclopropanecarbonyl chloride are obtained in the form of a liquid of boiling point 82-85° C./ 100 mbar.

reactant | 2-fluoro-2-chloro-1-methylcyclopropanecarboxylic acid | 0.33 mol, 51 g | FC1(C(C1)(C(=O)O)C)Cl | C5H6ClFO2
reactant | thionyl chloride | 0.5 mol, 60 g | S(=O)(Cl)Cl | Cl2OS
product | 2-fluoro-2-chloro-1-methylcyclopropanecarbonyl chloride | 54 g, 97% | FC1(C(C1)(C(=O)Cl)C)Cl | C5H5Cl2FO
